US06156700
Preparation of 2-Ethoxy-3-[3-(6-hydroxy-m-tolyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-4(3H)-pyrimidinone
A solution of 2-ethoxy-[3-(6-methoxy-m-tolyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-4(3H)-pyrimidinone (0.490 g, 1.06 mmol) in methylene chloride is cooled to -5° C., treated with a 1 M solution of boron tribromide in methylene chloride (1.38 mL, 1.38 mmol), stirred for six hours, washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title product as an off-white solid which is identified by NMR spectral analysis.

reactant | 2-ethoxy-[3-(6-methoxy-m-tolyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-4(3H)-pyrimidinone | 1.06 mmol, 0.490 g | C(C)OC1=NC(=CC(N1C=1C=CC2=C(C(=NS2)C=2C=C(C(=CC2)OC)C)C1)=O)C(F)(F)F | C22H18F3N3O3S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.38 mmol, 1.38 mL | C(Cl)Cl | CH2Cl2
product | 2-Ethoxy-3-[3-(6-hydroxy-m-tolyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-4(3H)-pyrimidinone | C(C)OC1=NC(=CC(N1C=1C=CC2=C(C(=NS2)C=2C=C(C(=CC2)O)C)C1)=O)C(F)(F)F | C21H16F3N3O3S
